US06544974B2
A suspension of 4-fluoro-3-methylphenol (98.0 μL, 0.88 mmol) and cesium carbonate (319.5 mg, 0.98 mrnol) in 1 mL of N,N-dimethylacetamide was preheated at 60° C. for 5 minutes. To this solution was added 4 mL of a stock solution containing (2R)-3-[[(3-bromophenyl)][[3-(trifluoromethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol (200 mg, 0.437 mmol) from EX-33B, 1-naphthoic acid (164 mg, 0.95 mmol), copper(I) trifluoromethansulfonate benzene complex (21.8 mg, 0.0434 mmol), 4 Å sieves (105 mg), and 4 mL of toluene. The reaction mixture was stirred at 105° C. for 3 weeks and 2 days. During that time, additional cesium carbonate and catalyst were added (a spatula tip of each) to the reaction three different times. The reaction was cooled to room temperature, filtered through celite, and the solvent was evaporated. The residue was purified by reverse phase HPLC eluting with 35% to 90% acetonitrile in water to afford 50.5 mg (23%) of the desired (2R)-3-[[3-(4-fluoro-3-methylphenoxy)phenyl][[3-(trifluoromethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as an orange oil. HRMS calcd. for C24H20F7NO3: 504.1410 [M+H]+, found: 504.1389. 1H NMR (acetone-d6) δ 7.44 (t, 1H), 7.24 (d, 1H), 7.08-7.21 (m, 3H), 6.98 (t, 1H), 6.75-6.85 (m, 1H), 6.68-6.74 (m, 1H), 6.53 (d, 1H), 6.21-6.34 (m, 2H), 4.79 (t, 2H), 4.464.53 (m, 1H), 3.95 (dd, 1H), 2.61-2.72 (m, 1H), 2.20 (s, 3H).

reactant | 4-fluoro-3-methylphenol | 0.88 mmol, 98.0 μL | FC1=C(C=C(C=C1)O)C | C7H7FO
reactant | cesium carbonate | 319.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2R)-3-[[(3-bromophenyl)][[3-(trifluoromethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 0.437 mmol, 200 mg | BrC=1C=C(C=CC1)N(C[C@H](C(F)(F)F)O)CC1=CC(=CC=C1)OC(F)(F)F | C17H14BrF6NO2
reactant | 1-naphthoic acid | 0.95 mmol, 164 mg | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | (2R)-3-[[3-(4-fluoro-3-methylphenoxy)phenyl][[3-(trifluoromethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 50.5 mg, 23% | FC1=C(C=C(OC=2C=C(C=CC2)N(C[C@H](C(F)(F)F)O)CC2=CC(=CC=C2)OC(F)(F)F)C=C1)C | C24H20F7NO3
